US05804400
A solution of 8-aminoquinoline (1 g, 6.9 mmol) and N-CBZ-L-leucine (2.2 g, 8.3 mmol) in dry methylene chloride (35 mL) was mixed with 1-hydroxybenzotriazole (1.1 g, 8.3 mmol) and 1-ethyl-3-(3-dimethylaminopropyl) carbodiimide hydrochloride (1.6 g, 8.3 mmol) . The reaction mixture was stirred overnight at room temperature and then worked up with saturated sodium chloride, saturated sodium bicarbonate, and water. The organic layer was dried with magnesium sulfate. Following solvent removal, product was purified by column chromatography on silica gel eluted with hexane-ethyl acetate (4:1) to give pure CBZ-L-leucine aminoquinoline. It was deprotected by treating it with hydrogen gas and 10% palladium on carbon in ethyl acetate to give pure 8-(L)-leucylaminoquinoline (60% yield).

reactant | 8-aminoquinoline | 6.9 mmol, 1 g | NC=1C=CC=C2C=CC=NC12 | C9H8N2
reactant | N-CBZ-L-leucine | 8.3 mmol, 2.2 g | C(=O)(OCC1=CC=CC=C1)N[C@@H](CC(C)C)C(=O)O | C14H19NO4
reactant | 1-hydroxybenzotriazole | 8.3 mmol, 1.1 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-ethyl-3-(3-dimethylaminopropyl) carbodiimide hydrochloride | 8.3 mmol, 1.6 g | Cl.C(C)N=C=NCCCN(C)C
reactant | sodium chloride | [Cl-].[Na+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 35 mL | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | CBZ-L-leucine aminoquinoline | NC1=NC2=CC=CC=C2C=C1.C(=O)(OCC1=CC=CC=C1)N[C@@H](CC(C)C)C(=O)O | InChI=1S/C14H19NO4.C9H8N2/c1-10(2)8-12(13(16)17)15-14(18)19-9-11-6-4-3-5-7-11;10-9-6-5-7-3-1-2-4-8(7)11-9/h3-7,10,12H,8-9H2,1-2H3,(H,15,18)(H,16,17);1-6H,(H2,10,11)/t12-;/m0./s1
